US06191124B1
A suspension of 3-(3-fluorophenyl)-1-(6,7,8,9-tetrahydro-5H-cyclohept[d]imidazo[2,1-b]thiazol-3-yl)-2-propene-1-one (Formula N-6, X=3-fluoro), 1.02 g, in THF (100 mL) at −78° was treated with LiAlH4 (0.27 g) and reacted for 18 hours. The mixture was then maintained at −20° for 24 hours and excess reagent was quenched. The mixture was filtered, the filtrate was concentrated, the residue was dissolved in ethyl acetate, washed with saline, dried and evaporated. The residue (0.30 g) was crystallized from acetonitrile to yield pure α-[2-(3-fluorophenyl) ethyl]-6,7,8,9-tetrahydro-5H-cyclohept[d]imidazo[2,1-b]thiazol-3-methanol, 0.21 g (m.p. 141-144°), Formula N-7, X=3-fluoro.

reactant | 3-(3-fluorophenyl)-1-(6,7,8,9-tetrahydro-5H-cyclohept[d]imidazo[2,1-b]thiazol-3-yl)-2-propene-1-one | FC=1C=C(C=CC1)C=CC(=O)C1=CN=C2SC3=C(N21)CCCCC3 | C19H17FN2OS
reactant | LiAlH4 | 0.27 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | α-[2-(3-fluorophenyl) ethyl]-6,7,8,9-tetrahydro-5H-cyclohept[d]imidazo[2,1-b]thiazol-3-methanol | FC=1C=C(C=CC1)CCC(O)C1=CN=C2SC3=C(N21)CCCCC3 | C19H21FN2OS
